US08754226B2
(S)-5-amino-2-(benzyloxycarbonylamino)pentanoic acid (50 g, 188 mmol) was dissolved in THF (800 mL) and water (100 mL). Tert-butyl 4-oxopiperidine-1-carboxylate (37 g, 188 mmol) was added and the reaction was stirred for 1 hour. The reaction was cooled to 0° C. and sodium cyanoborohydride (12 g, 188 mmol) was added and the reaction stirred at ambient temperature overnight. The reaction was concentrated to provide (S)-2-(benzyloxycarbonylamino)-5-(1-(tert-butoxycarbonyl)piperidin-4-ylamino)pentanoic acid, which was used directly in the next step.

reactant | (S)-5-amino-2-(benzyloxycarbonylamino)pentanoic acid | 188 mmol, 50 g | NCCC[C@@H](C(=O)O)NC(=O)OCC1=CC=CC=C1 | C13H18N2O4
reactant | Tert-butyl 4-oxopiperidine-1-carboxylate | 188 mmol, 37 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | sodium cyanoborohydride | 188 mmol, 12 g | C(#N)[BH3-].[Na+]
solvent | THF | 800 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | (S)-2-(benzyloxycarbonylamino)-5-(1-(tert-butoxycarbonyl)piperidin-4-ylamino)pentanoic acid | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CCCNC1CCN(CC1)C(=O)OC(C)(C)C | C23H35N3O6
